US04248859
Methylmagnesium iodide (0.22 mole) in ether (200 ml.) was added dropwise to a solution of 2-isopropyl-2-carbethoxycyclopentanone (40 g, 0.2 mole) in ether (150 ml.), and the mixture was heated under reflux for 17 hours. Dilute sulphuric acid was then added and the ether layer was separated and dried (MgSO4). The ether was removed to leave 2-carbethoxy-1-methyl-2-isopropylcyclopentanol. This compound was dissolved in pyridine (200 ml.) and cooled to -10° C. Thionyl chloride (25 ml.) was then added keeping the temperature at -5° C. After 2 hours at -5° C., ether (500 ml) and an excess of 2 N sulphuric acid were added and the organic layer was separated. The aqueous layer was extracted with ether and the combined extracts were dried (MgSO4). The solvent was removed and the residue was distilled to give 1-carbethoxy-1-isopropyl-2-methylcyclopent-2-ene, bp. 107°-110°/17 mm.

reactant | Methylmagnesium iodide | 0.22 mole | C[Mg]I
reactant | 2-isopropyl-2-carbethoxycyclopentanone | 0.2 mole, 40 g | C(C)(C)C1(C(CCC1)=O)C(=O)OCC | C11H18O3
reactant | sulphuric acid | S(O)(O)(=O)=O | H2O4S
solvent | ether | 200 ml | CCOCC | C4H10O
solvent | ether | 150 ml | CCOCC | C4H10O
product | 2-carbethoxy-1-methyl-2-isopropylcyclopentanol | C(=O)(OCC)C1(C(CCC1)(O)C)C(C)C | C12H22O3
